US09359338B2
Step 2: Synthesis of 1-cyclopropyl-4-(3-nitro-5-(trifluoromethyl)phenyl)-1,2,3,6-tetrahydropyridine
Stir the mixture of 4-(3-nitro-5-(trifluoromethyl)phenyl)-1,2,3,6-tetrahydropyridine (150 mg, 0.55 mmol), (1-ethoxycyclopropoxy)trimethylsilane (700 mg, 2.4 mmol), sodium cyanoborohydride (200 mg, 3.3 mmol) and acetic acid (240 mg, 4.0 mmol) in ethanol (10 mL) at 60° C. overnight. Concentrate the mixture to get a residue, partition between EtOAc and water, collect the organic layer, wash with water and brine sequentially, and dry over anhydrous sodium sulfate. Concentrate under reduced pressure to give the product as a yellow solid (135 mg, 79%). MS: (M+1): 313.1.

reactant | 4-(3-nitro-5-(trifluoromethyl)phenyl)-1,2,3,6-tetrahydropyridine | 0.55 mmol, 150 mg | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)C=1CCNCC1 | C12H11F3N2O2
reactant | (1-ethoxycyclopropoxy)trimethylsilane | 2.4 mmol, 700 mg | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | sodium cyanoborohydride | 3.3 mmol, 200 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | 4.0 mmol, 240 mg | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-cyclopropyl-4-(3-nitro-5-(trifluoromethyl)phenyl)-1,2,3,6-tetrahydropyridine | 135 mg, 79% | C1(CC1)N1CCC(=CC1)C1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C15H15F3N2O2
